US08754114B2
N-[3-(7-{1-[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 30 (Step 6) starting from N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea and morpholine-4-carbonyl chloride (Aldrich, Cat. No. 348295). LCMS (M+H)+: m/z=598.2.

reactant | N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H23F3N8O
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | N-[3-(7-{1-[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | N1(CCOCC1)C(=O)N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C28H30F3N9O3
